US07910751B2
<Step 1> Synthesis of 2-chloro-3-iodo-6-trifluoromethylpyridine
A hexane solution of n-butyl lithium (3.8 mL) was added to a tetrahydrofuran (10 mL) solution of 2,2,6,6-tetramethylpyrrolidine (0.93 mL) at −78° C. The reaction mixture was stirred at the same temperature for 30 minutes. A tetrahydrofuran (5 mL) solution of 2-chloro-6-trifluoromethylpyridine (1.0 g) was added dropwise to the reaction mixture, and the solution was further stirred at −78° C. for 30 minutes. A tetrahydrofuran (5 mL) solution of iodine (1.54 g) was added to the solution, and the temperature of the solution was increased to the room temperature. An aqueous sodium sulfite solution was added to the solution, and the solution was extracted with diethyl ether. The organic layer was sequentially washed with an aqueous sodium sulfite solution, an aqueous sodium hydrogencarbonate solution, and a saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate=100:0 to 95:5). The title compound (750 mg) was obtained as pale yellow oil.

reactant | n-butyl lithium | 3.8 mL | C(CCC)[Li]
reactant | 2-chloro-6-trifluoromethylpyridine | 1.0 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | iodine | 1.54 g | II | I2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-chloro-3-iodo-6-trifluoromethylpyridine | 750 mg | ClC1=NC(=CC=C1I)C(F)(F)F | C6H2ClF3IN
